US04954518
To 60 ml of dioxane were added 3.33 g of 2,3-dihydro-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one and 3.40 g of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone. The mixture was refluxed for 12 hours. After water cooling, the precipitate was removed by filtration. The filtrate was subjected to distillation under reduced pressure to remove the solvent. The residue was purified by a column chromatography (eluant: a 5 : 1 mixture of toluene and ethyl acetate) to obtain 2.68 g (yield: 81%) of 7-methylsulfonylamino-6-phenoxy4H-1-benzopyran-4-one [Compound No. 1].

reactant | 2,3-dihydro-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 3.33 g | CS(=O)(=O)NC1=CC2=C(C(CCO2)=O)C=C1OC1=CC=CC=C1 | C16H15NO5S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 3.40 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 7-methylsulfonylamino-6-phenoxy4H-1-benzopyran-4-one | 2.68 g, yield: 81% | CS(=O)(=O)NC1=CC2=C(C(C=CO2)=O)C=C1OC1=CC=CC=C1 | C16H13NO5S
